US06436999B1
a) 4-Fluoro-3-trifluoromethylbenzoyl Chloride
1.5 g of 4-fluoro-3-trifluoromethylbenzoic acid, 0.65 ml of thionyl chloride and two drops of DMF are heated under reflux for 12 h in 17 ml of toluene and the mixture is subsequently concentrated and used without further purification.

reactant | 4-fluoro-3-trifluoromethylbenzoic acid | 1.5 g | FC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H4F4O2
reactant | thionyl chloride | 0.65 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | two drops | CN(C)C=O | C3H7NO
solvent | toluene | 17 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Fluoro-3-trifluoromethylbenzoyl Chloride | FC1=C(C=C(C(=O)Cl)C=C1)C(F)(F)F | C8H3ClF4O
